US07807695B2
Synthesis of 1,4-bis(3-phenylpropyl)-piperidine
3-Phenylpropylpiperidine (1 eq) was reacted with 3-phenylbromopropane (1 eq) in the presence of K2CO3 in refluxing acetonitrile over night. The product obtained was worked up and purified on a column of silica. The 500 MHz 1H NMR is in accordance with the expected structure.

reactant | 3-Phenylpropylpiperidine | 1 eq | C1(=CC=CC=C1)CCCN1CCCCC1 | C14H21N
reactant | 3-phenylbromopropane | 1 eq | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,4-bis(3-phenylpropyl)-piperidine | C1(=CC=CC=C1)CCCN1CCC(CC1)CCCC1=CC=CC=C1 | C23H31N
